US07034039B2
Tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate (0.18 g, 0.37 mmol) was dissolved in ethanol (4 ml) and a solution (4 ml) of 4N hydrogen chloride in ethyl acetate was added. The mixture was stirred at room temperature for 30 min. The reaction mixture was concentrated under reduced pressure, and the residue was washed with diisopropyl ether (2 ml) and recrystallized from ethyl acetate-ethanol (20:1) to give 3-(aminomethyl)-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride (0.12 g, 80%) as a colorless powder.

reactant | Tert-butyl[2-isobutyl-1-oxo-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1,2-dihydro-3-isoquinolinyl]methylcarbamate | 0.37 mmol, 0.18 g | C(C)(C)(C)OC(NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NOC(N1)=O)=O)CC(C)C)=O | C27H30N4O5
reactant | hydrogen chloride | 4N, 4 ml | Cl | ClH
solvent | ethanol | 4 ml | C(C)O | C2H6O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 3-(aminomethyl)-2-isobutyl-6-(5-oxo-4,5-dihydro-1,2,4-oxadiazol-3-yl)-4-phenyl-1(2H)-isoquinolinone hydrochloride | 0.12 g, 80% | Cl.NCC=1N(C(C2=CC=C(C=C2C1C1=CC=CC=C1)C1=NOC(N1)=O)=O)CC(C)C | InChI=1S/C22H22N4O3.ClH/c1-13(2)12-26-18(11-23)19(14-6-4-3-5-7-14)17-10-15(8-9-16(17)21(26)27)20-24-22(28)29-25-20;/h3-10,13H,11-12,23H2,1-2H3,(H,24,25,28);1H
